US08633308B2
5-(Perylen-3-ylethynyl)-2′,3′-dideoxyuridine (ddUY11)
To a suspension of 5-(perylen-3-ylethynyl)-5′-O-pivaloyl-2′,3′-dideoxyuridine (350 mg, 0.613 mmol) in 80 mL of MeOH solid KOH (310 mg, 5.517 mmol) was added, and the mixture was stirred overnight. The mixture was then neutralized with acetic acid, evaporated under reduced pressure, co-evaporated with MeOH twice to give a crude product, which was chromatographically purified on a silica gel column using a 0 to 3% EtOH/CHCl3 gradient to give a chromatographically homogeneous (Rf 0.46, 37.5% acetone/CHCl3) product as orange solid (130 mg, 43%). 1H-NMR (DMSO-d6): 11.74 (s, 1H, NH), 8.76 (s, 1H, H-6), 8.45 (d, 1H, J 7.7), 8.41-8.38 (m, 2H), 8.36 (d, 1H, J 7.7), 8.30 (d, 1H, J 7.7), 7.71-7.54 (m, 6H) (perylenyl), 5.99-5.98 (m, 1H, H-1′), 5.35 (br. s, 1H, OH), 4.15-4.10 (m, 1H, H-4′), 3.70 (app. d, 1H, H-5′), 3.63 (app. d, 1H, H-5′), 2.38-2.31 (m, 1H, H-2′), 2.17-2.13 (m, 1H, H-2′), 2.01-1.94 (m, 1H, H-3′), 1.91-1.86 (m, 1H, H-3′).

reactant | 5-(perylen-3-ylethynyl)-5′-O-pivaloyl-2′,3′-dideoxyuridine | 0.613 mmol, 350 mg | C1=CC(=C2C=CC=C3C4=CC=CC5=CC=CC(C1=C23)=C45)C#CC=4C(NC(N([C@H]5CC[C@@H](COC(C(C)(C)C)=O)O5)C4)=O)=O | C36H30N2O5
reactant | MeOH | 5.517 mmol, 80 mL, 310 mg | CO | CH4O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | 5-(Perylen-3-ylethynyl)-2′,3′-dideoxyuridine | 130 mg, 43% | C1=CC(=C2C=CC=C3C4=CC=CC5=CC=CC(C1=C23)=C45)C#CC=4C(NC(N([C@H]5CC[C@@H](CO)O5)C4)=O)=O | C31H22N2O4
